US07585885B2
2-(methanesulfonyl-methylamino)-6-(methylpropylamino)-isonicotinic acid methyl ester
Dissolve 2-methanesulfonylamino-6-(methylpropylamino)-isonicotinic acid methyl ester (87 mg, 2.89 mmol) and iodomethane (0.27 mL, 4.33 mmoles) in DMF (10 mL). Add potassium carbonate (639 mg, 4.62 mmol) and tetrabutylammonium bromide (93 mg, 0.98 mmol) and stir at room temperature 1 h. Dilute with ethyl acetate (80 mL), wash with 10% aqueous potassium carbonate (2×15 mL), 0.1 N citric acid (2×15 mL), 1 N lithium chloride (2×15 mL) and saturated aqueous sodium chloride (15 mL). Concentrate organic layer and purify (silica gel chromatography, eluting with 10:90 to 40:60 ethyl acetate:hexanes to give the title compound (796 mg, 87%).

reactant | 2-methanesulfonylamino-6-(methylpropylamino)-isonicotinic acid methyl ester | 2.89 mmol, 87 mg | COC(C1=CC(=NC(=C1)N(CCC)C)NS(=O)(=O)C)=O | C12H19N3O4S
reactant | iodomethane | 4.33 mmoles, 0.27 mL | IC | CH3I
reactant | potassium carbonate | 4.62 mmol, 639 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | tetrabutylammonium bromide | 0.98 mmol, 93 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | 80 mL | C(C)(=O)OCC | C4H8O2
product | 2-(methanesulfonyl-methylamino)-6-(methylpropylamino)-isonicotinic acid methyl ester | 796 mg, 87% | COC(C1=CC(=NC(=C1)N(CCC)C)N(C)S(=O)(=O)C)=O | C13H21N3O4S
